US07232903B2
In a 2-mL volume stainless steel pressure-resistant vessel were placed 280 mg (1.8 mmol) of ammonium anthranilate (prepared in the same manner as in Reference Example 1), 400 mg (3.6 mmol) of methyl orthoformate, and 1.5 mL of methanol. The reaction was carried out at 120° C. for 2 hours. After the reaction was complete, the reaction mixture was cooled to room temperature and analyzed (according to absolute quantitative analysis) by high performance liquid chromatography. There was produced 214 mg (reaction yield: 81%) of quinazolin-4-one.

reactant | ammonium anthranilate | 1.8 mmol, 280 mg | C(C=1C(N)=CC=CC1)(=O)[O-].[NH4+]
reactant | methyl orthoformate | 3.6 mmol, 400 mg | C(OC)([O-])[O-]
reactant | methanol | 1.5 mL | CO | CH4O
product | quinazolin-4-one | 214 mg, yield: 81% | N1=CNC(C2=CC=CC=C12)=O | C8H6N2O
